US09260425B2
To a 1000 mL 3-neck flask was added 2-bromo-5-fluoropyridine (8.80 g, 50 mmol) and THF (200 mL) at −78° C. followed by dropwise addition of LDA (20.0 mL, 50 mmol, 2.5 M). After stirring at −78° C. for 4 h, acetaldehyde (3.1 mL, 55 mmol) was added dropwise via syringe. The contents were removed from the cold bath and stirred at room temperature overnight. The mixture was diluted with H2O (150 mL), and vigorously stirred for 5 min. The contents were extracted with ethyl ether (3×150 mL), the combined organic layers were dried over MgSO4, filtered, and concentrated in vacuo to afford a yellow oil. The crude product was passed through a short silica column (eluent: 3:1 PE/EtOAc) to afford 1-(2-bromo-5-fluoropyridin-4-yl)ethanol as a white solid (9.5 g, 86%). ESI MS m/z=220 (M+1)

reactant | 2-bromo-5-fluoropyridine | 50 mmol, 8.80 g | BrC1=NC=C(C=C1)F | C5H3BrFN
reactant | THF | 200 mL | C1CCOC1 | C4H8O
reactant | LDA | 50 mmol, 2.5 M, 20.0 mL | [Li+].CC(C)[N-]C(C)C
reactant | acetaldehyde | 55 mmol, 3.1 mL | C(C)=O | C2H4O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 1-(2-bromo-5-fluoropyridin-4-yl)ethanol | 9.5 g, 86% | BrC1=NC=C(C(=C1)C(C)O)F | C7H7BrFNO
